US04605785
1-(2-Methoxyphenyl)-1-[4-(3-phenylpropoxy)-phenyl]-propan-1-ol
6.45 g. of 1-(2-methoxyphenyl)-1-(4-hydroxyphenyl)-propan-1-ol, 5.5 g. of 3-phenylpropyl bromide, 6.5 g. of anhydrous potassium carbonate, 0.5 g. of potassium iodide and 65 ml. of dry acetone are slightly boiled for 15 hours, with stirring. After cooling, acetone is distilled off under reduced pressure, to the residue water is added and it is extracted with benzene. The organic phase is washed to neutral with water, a 5% aqueous sodium hydroxide solution and again water. After drying over anhydrous magnesium sulfate the solution is evaporated in vacuo. The residue is crystallized from n-hexane to yield 7.8 g. of the named compound, melting at 75°-76° C.

reactant | 1-(2-methoxyphenyl)-1-(4-hydroxyphenyl)-propan-1-ol | COC1=C(C=CC=C1)C(CC)(O)C1=CC=C(C=C1)O | C16H18O3
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2-Methoxyphenyl)-1-[4-(3-phenylpropoxy)-phenyl]-propan-1-ol | COC1=C(C=CC=C1)C(CC)(O)C1=CC=C(C=C1)OCCCC1=CC=CC=C1 | C25H28O3
